US07084170B2
2-Trimethylsilyl-3-methylsulfanylthiophene
A solution of n-BuLi (5.3 mL of 1.6 M in hexanes, 8.5 mmol) is added dropwise to a solution of 3-methylsulfanylthiophene (1.0 g, 7.7 mmol) in anhydrous Et2O (8 mL) under nitrogen at −70° C. The mixture is stirred at −70° C. for 2 hr. Chlorotrimethylsilane (1.5 mL) is added slowly to the reaction mixture. The mixture is warmed to room temperature and stirred for 3 hr. The reaction is quenched with water (50 mL) and Et2O (50 mL). The aqueous layer is extracted with Et2O (50 mL). The combined organic extracts are dried (Na2SO4), filtered and concentrated. The crude product is chromatographed on silica gel, eluting with hexanes to afford the title compound (0.75 g, 48%) as a colorless liquid.

reactant | n-BuLi | 8.5 mmol, 1.6 M, 5.3 mL | [Li]CCCC
reactant | 3-methylsulfanylthiophene | 7.7 mmol, 1.0 g | CSC1=CSC=C1 | C5H6S2
reactant | Chlorotrimethylsilane | 1.5 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | Et2O | 8 mL | CCOCC | C4H10O
product | 2-Trimethylsilyl-3-methylsulfanylthiophene | 0.75 g, 48% | C[Si](C=1SC=CC1SC)(C)C | C8H14S2Si
